US08614209B2
(4,4-Dimethyl-piperidin-1-yl)-[5-(1H-pyrazol-4-yl)-thiophen-3-yl]-methanone (EE-25)
5-(1H-Pyrazol-4-yl)-thiophene-3-carboxylic acid (0.075 g, 0.39 mmol) and 4,4-dimethylpiperidine hydrochloride (0.087 g, 0.58 mmol) were dissolved in DMF (3 mL) then DIPEA (0.2 g, 1.55 mmol) and HATU (0.175 g, 1.55 mmol) were added and the reaction mixture was stirred at room temperature overnight. The solvent was removed by evaporation then the residue was dissolved in DCM and washed with aqueous sodium hydrogen carbonate solution. The organics were dried by evaporation. The crude material was purified by HPLC, eluting with 5%-98% acetonitrile in water (0.1% formic acid) over 20 minutes. The fractions containing the desired product were freeze-dried to give the title compound (0.063 g). LCMS m/z 290.18 [M+H]+ R.T.=8.74 min (Analytical Method 2).

reactant | 5-(1H-Pyrazol-4-yl)-thiophene-3-carboxylic acid | 0.39 mmol, 0.075 g | N1N=CC(=C1)C1=CC(=CS1)C(=O)O | C8H6N2O2S
reactant | 4,4-dimethylpiperidine hydrochloride | 0.58 mmol, 0.087 g | Cl.CC1(CCNCC1)C
reactant | DIPEA | 1.55 mmol, 0.2 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.55 mmol, 0.175 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (4,4-Dimethyl-piperidin-1-yl)-[5-(1H-pyrazol-4-yl)-thiophen-3-yl]-methanone | 0.063 g | CC1(CCN(CC1)C(=O)C1=CSC(=C1)C=1C=NNC1)C | C15H19N3OS
